US06495576B2
4-Ethyl-4-formylhexanenitrile
2,2-Diethyl-4-cyanobutanol, oxalyl chloride and dimethylsulfoxide were processed as described in Example 18A to provide the title compound.

reactant | 2,2-Diethyl-4-cyanobutanol | C(C)C(CO)(CCC#N)CC | C9H17NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-Ethyl-4-formylhexanenitrile | C(C)C(CCC#N)(CC)C=O | C9H15NO
